*****************************************************************
* NXP PSMN4R1_30YLC
*
* Polarity N-Channel
* Ratings 30V/4.36E-03OHMS/20A
*
* Date Created Sat Apr  2 18:49:29 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R1_30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.000936

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00271896672212452 TC=0.00796984886307068,-1.10043978696032e-05
RBD 9 4 2.68608005871063e-05 TC=0.00796984886307068,-1.10043978696032e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.21969168390498e-09
RG 1 2 1.87663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	1726
+ -10	1580
+ -5	1577
+ -4	1532
+ -3	1505
+ -2	1180
+ -1	828
+ -0.5	680
+ -0.2	588
+ -0.1	558
+ 0	529.5
+ 0.1	489
+ 0.2	451
+ 0.5	365
+ 1	284
+ 2	216
+ 3	185
+ 4	166
+ 5	153
+ 6	144
+ 8	130
+ 10	121
+ 12	115
+ 15	108
+ 20	101



.MODEL MINT NMOS(Vto=1.98398242113347 Kp=2.0601e+02 Nfs=540000000000 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Vmax=1200)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=1.18436692570985e-12
+ N=1 M=0.67 VJ=0.88 Fc=0.5 Cjo=1.517e-09 Tt=2.3e-08)

.ENDS